US08703758B2
A) tert-butyl [(1S)-2-({1-[6-(cyclobutyloxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
To a solution of tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (500 mg) in DMF (5 mL) were added cesium carbonate (1.7 g) and bromocyclobutane (265 mg), and the mixture was stirred at room temperature for 15 hr and at 60° C. for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (378 mg).

reactant | tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 500 mg | OC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H29N3O5
reactant | cesium carbonate | 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromocyclobutane | 265 mg | BrC1CCC1 | C4H7Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-({1-[6-(cyclobutyloxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 378 mg | C1(CCC1)OC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H35N3O5
